US07109340B2
tert-Butyl 3-(2-amino-4,5-dimethylphenylcarbamoyl)-2,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridine-6-carboxylate can be prepared in the following way: 8.5 g of HBTU and also 2.9 g of diisopropylethylamine are added, at ambient temperature, to a solution of 3 g of (tert-butyl 2,4,5,7-tetrahydropyrazolo-[3,4-c]pyridine-6-carboxylate)-3-carboxylic acid in 50 ml of anhydrous DMF. After twenty minutes' stirring at ambient temperature, 3.06 g of 4,5-diamino-o-xylene are added. After stirring at ambient temperature for 60 hours, the reaction medium is diluted in 3 l of an aqueous NaHCO3 solution at pH greater than 7, containing 20 g of NaCl. The aqueous phase is extracted three times with 1 l of ethyl acetate, and the combined organic phases are then dried over magnesium sulphate and concentrated under reduced pressure. The crude residue obtained is taken up in 150 ml of dichloromethane and the insoluble material is removed by filtration through sintered glass. The filtrate is then concentrated under reduced pressure and purified by chromatography on silica (20–45 μm Amicon) with a gradient of from 50 to 100% of ethyl acetate in cyclohexane. The fractions containing the desired product are combined and concentrated under reduced pressure. 4.37 g of tert-butyl 3-(2-aminophenylcarbamoyl)-2,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridine-6-carboxylate are thus obtained in the form of a beige powder, the characteristics of which are as follows:

reactant | tert-Butyl 3-(2-amino-4,5-dimethylphenylcarbamoyl)-2,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridine-6-carboxylate | NC1=C(C=C(C(=C1)C)C)NC(=O)C=1NN=C2CN(CCC21)C(=O)OC(C)(C)C | C20H27N5O3
reactant | HBTU | 8.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,5-diamino-o-xylene | 3.06 g | NC=1C=C(C(=CC1N)C)C | C8H12N2
reactant | NaCl | 20 g | [Na+].[Cl-]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 3 l | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | tert-butyl 3-(2-aminophenylcarbamoyl)-2,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridine-6-carboxylate | 4.37 g | NC1=C(C=CC=C1)NC(=O)C=1NN=C2CN(CCC21)C(=O)OC(C)(C)C | C18H23N5O3
